US04492692
A solution of osmium tetroxide in acetone was treated with N-methylmorpholine in aqueous acetone. 4-Allyl-2-fluoro-1-triphenylmethylimidazole was added, and the mixture stirred at ambient temperature overnight. Reductive work-up with sodium metabisulphite and magnesium trisilicate, followed by extraction into ether, gave 4-(2,3-dihydroxypropyl)-2-fluoro-1-triphenylmethylimidazole, having the following n.m.r. in CDCl3 : 2.6 (d, 2H); 3.6 (m, 2H); 3.9 (m, 1H); 6.3 (s, 1H); 7.0-7.5 (m, 15H).

reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | 4-Allyl-2-fluoro-1-triphenylmethylimidazole | C(C=C)C=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C25H21FN2
reactant | acetone | CC(=O)C | C3H6O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 4-(2,3-dihydroxypropyl)-2-fluoro-1-triphenylmethylimidazole | OC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F)CO | C25H23FN2O2
